US03935261
Diisobutylaluminium hydride (19.4 g., 0.14 mole) in dry benzene (50 ml.) was added dropwise at 10°C. to a stirred solution of 7-(2-tetrahydropyranyloxy)heptanenitrile (20.6 g., 0.1 mole) in dry diethyl ether (200 ml.). The solution was stirred at 10°C. for 30 minutes and was then added to 2N aqueous sulphuric acid (300 ml.) at 0°C. The mixture was heated at 30°C. for 30 minutes, and then saturated with sodium chloride and the layers were separated. The aqueous layer was extracted with diethyl ether and the combined organic layers were washed with aqueous sodium bicarbonate, and then aqueous sodium chloride, and dried over sodium sulphate. The solvent was evaporated and the residue was distilled under reduced pressure to give 7-(2-tetrahydropyranyloxy)heptanal (12.7 g., 66%), b.p. 78°-106°C./0.1 mm.Hg, nD25 1.456.

reactant | Diisobutylaluminium hydride | 0.14 mole, 19.4 g | [H-].C(C(C)C)[Al+]CC(C)C
reactant | 7-(2-tetrahydropyranyloxy)heptanenitrile | 0.1 mole, 20.6 g | O1C(CCCC1)OCCCCCCC#N | C12H21NO2
reactant | sulphuric acid | 2N, 300 ml | S(O)(O)(=O)=O | H2O4S
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | 7-(2-tetrahydropyranyloxy)heptanal | 12.7 g, 66% | O1C(CCCC1)OCCCCCCC=O | C12H22O3
